US03962224
Diethyl aminomethylphosphonate hydrochloride (4.965 g.) is stirred in chloroform (25 ml.) at 0°C. while ammonia is bubbled through the mixture for 4 minutes. The resulting ammonium chloride is filtered off and the filtrate dried briefly over MgSO4. Evaporation of the solvent at reduced pressure affords diethyl aminomethylphosphonate (4.031 g.) as a clear liquid. ir (CCl4) 1240, 1062, 1032, and 966 cm-1 ; nmr (CDCl3)τ8.67 (t, 6, J=7Hz, CH3), 7.03 (d, 2, J=11Hz, CH2), and 5.86 (p, 4, J=7Hz and J=7Hz, CH2CH3).

reactant | Diethyl aminomethylphosphonate hydrochloride | 4.965 g | Cl.NCP(OCC)(OCC)=O
reactant | ammonia | N | H3N
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | diethyl aminomethylphosphonate | 4.031 g | NCP(OCC)(OCC)=O | C5H14NO3P
